US05073641
PREPARATION OF α-CHLOROACETYLSARCOSINAMIDE
A solution of chloroacetyl chloride (0.1 mole, 11.3 g) in benzene (40 ml) was added over 30 min to a mixture of sarcosinamide hydrochloride (0.1 mole, 12.45 g) and sodium bicarbonate (0.25 mole, 20.0 g) in 40 ml of water. The mixture was vigorously stirred for 3 h at room temperature. The aqueous phase was acidified with 5M hydrochloric acid to pH 5 and extracted with ethyl acetate (3×400 ml). The combined extracts were dried over anhydrous sodium sulphate and evaporated in vacuo. The solid residue obtained was recrystallized from ethanol-ether to give 8.5 g (52%) of the title compound. Mp 85°-86° C.

reactant | chloroacetyl chloride | 0.1 mole, 11.3 g | ClCC(=O)Cl | C2H2Cl2O
reactant | sarcosinamide hydrochloride | 0.1 mole, 12.45 g | Cl.N(C)CC(=O)N
reactant | sodium bicarbonate | 0.25 mole, 20.0 g | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 5M | Cl | ClH
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | water | 40 ml | O | H2O
product | α-CHLOROACETYLSARCOSINAMIDE | 8.5 g, 52% | ClCC(=O)N(C)CC(=O)N | C5H9ClN2O2
